US05166204
4.0 ml of an aqueous 47% hydrobromide solution was added to 80 mg of N-(2-diethylaminoethyl)-1-ethyl-6-methoxycarbazole-3,4-dicarboximide. The mixture was refluxed for 40 minutes. Thereto was added 30 ml of water. The resulting mixture was adjusted to pH 9 with potassium carbonate, and extracted with 50 ml of ethyl acetate. The extract was washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from isopropyl alcohol to obtain 35 mg (yield: 45%) of N-(2-diethylaminoethyl)-1-ethyl-6-hydroxycarbazole-3,4-dicarboximide as yellow crystals.

reactant | hydrobromide | Br | BrH
reactant | N-(2-diethylaminoethyl)-1-ethyl-6-methoxycarbazole-3,4-dicarboximide | 80 mg | C(C)N(CCN1C(=O)C=2C=C(C=3NC4=CC=C(C=C4C3C2C1=O)OC)CC)CC | C23H27N3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 ml | O | H2O
product | N-(2-diethylaminoethyl)-1-ethyl-6-hydroxycarbazole-3,4-dicarboximide | 35 mg, yield: 45% | C(C)N(CCN1C(=O)C=2C=C(C=3NC4=CC=C(C=C4C3C2C1=O)O)CC)CC | C22H25N3O3
